US04921852
A mixture of (2S,4S)-2-cyano-1-(4-nitrobenzyloxycarbonyl)-4-tritylthiopyrrolidine (2.00 g) and sodium azide (0.30 g) in dimethylformamide (20 ml) was stirred at 110°-120° C. for 9 hours in the presence of ammonium chloride (0.05 g). The mixture was concentrated under reduced pressure to give a residue. The residue was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of acetone and chloroform (10:90, V/V) to give (2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(1H-tetrazol-5-yl)-4-tritylthiopyrrolidine (1.86 g).

reactant | (2S,4S)-2-cyano-1-(4-nitrobenzyloxycarbonyl)-4-tritylthiopyrrolidine | 2.00 g | C(#N)[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C32H27N3O4S
reactant | sodium azide | 0.30 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.05 g | [Cl-].[NH4+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-(1H-tetrazol-5-yl)-4-tritylthiopyrrolidine | 1.86 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=NN=NN2)C=C1 | C32H28N6O4S
